US07067534B1
N-(3-{1-[6-(3,4-DIMETHOXYPHENOXY)-6-(2-FLUOROPHENYL)HEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 3,4-dimethoxyphenol and N-(3-{1-[6-(2-fluorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 577.6 (M+H)+.

reactant | 3,4-dimethoxyphenol | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | N-(3-{1-[6-(2-fluorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=C(C=CC=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C27H37FN2O2
product | N-(3-{1-[6-(3,4-DIMETHOXYPHENOXY)-6-(2-FLUOROPHENYL)HEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC=1C=C(OC(CCCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=C(C=CC=C2)F)C=CC1OC | C35H45FN2O4
